US09353108B2
D) (2-Cyclopropyl-5-ethoxy-2′-fluorobiphenyl-4-yl)methanol
Cyclopropylboronic acid (0.504 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.241 g), a 2 M aqueous sodium carbonate solution (5.86 mL), and tris(dibenzylideneacetone)dipalladium(0) (0.251 g) were added to a mixture of methyl 2-bromo-5-ethoxy-2′-fluorobiphenyl-4-carboxylate (1.38 g) and toluene (20 mL), and the resultant mixture was stirred at 100° C. for 6 hours in an argon atmosphere. Water was added to the reaction mixture, and the mixture was filtered through celite. The filtrate was subjected to extraction with ethyl acetate. The organic layer was washed with water and saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate). A THF (5 mL) solution of the purified product was added at 0° C. to a THF (5 mL) suspension of lithium aluminum hydride (0.326 g). After stirring at the same temperature as above for 2 hours, water (0.5 mL), a 1 M aqueous sodium hydroxide solution (0.5 mL), and water (1.5 mL) were added thereto in this order. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.07 g).

reactant | Cyclopropylboronic acid | 0.504 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.241 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 5.86 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 2-bromo-5-ethoxy-2′-fluorobiphenyl-4-carboxylate | 1.38 g | BrC1=C(C=C(C(=C1)C(=O)OC)OCC)C1=C(C=CC=C1)F | C16H14BrFO3
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.251 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Cyclopropyl-5-ethoxy-2′-fluorobiphenyl-4-yl)methanol | 1.07 g | C1(CC1)C1=C(C=C(C(=C1)CO)OCC)C1=C(C=CC=C1)F | C18H19FO2
